US09260427B2
Prepared using General Procedure 9. A stirred solution of (S)-methyl 3-(4-(tert-butyl)benzamido)-4-(4-hydroxyphenyl)butanoate (2.30 g, 6.3 mmol) in DCM (25 mL) was treated with DIEA (1.4 ml, 7.6 mmol) then 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (2.5 g, 6.9 mmol). After 18 h, the reaction mixture was diluted with DCM (100 mL), H2O (50 mL) and NaHCO3 (75 mL) and stirred for 1 h. The organic layer was isolated, washed with NaHCO3 (100 mL), dried over MgSO4, concentrated, and purified by chromatography (EA/hexane) to provide 2.5 g (75%) of (S)-methyl 3-(4-(tert-butyl)benzamido)-4-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)butanoate as a thick oil. LCMS-ESI (m/z) calculated for C23H26F3NO6S: 501.5. found 502 [M+H]+, tR=3.20 min (Method 6).

reactant | (S)-methyl 3-(4-(tert-butyl)benzamido)-4-(4-hydroxyphenyl)butanoate | 6.3 mmol, 2.30 g | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](CC(=O)OC)CC2=CC=C(C=C2)O)C=C1 | C22H27NO4
reactant | DIEA | 7.6 mmol, 1.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 6.9 mmol, 2.5 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
solvent | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
product | (S)-methyl 3-(4-(tert-butyl)benzamido)-4-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)butanoate | 2.5 g, 75% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](CC(=O)OC)CC2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)C=C1 | C23H26F3NO6S
